US06869959B1
Ethyl 2-[N-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-yl)amino]-pyrimidine-5-carboxylate (165 mg) was dissolved in dry DMF (3 ml), and the solution was added with a suspension of NaH (130 mg) in DMF (2 ml). Then, the mixture was added with n-propyl iodide (0.5 ml) and stirred. After the disappearance of the materials was observed with TLC, the reaction mixture was poured into water, and extracted with CH2Cl2. The organic layer was dried over Na2SO4, and the solvent was evaporated. The residue was purified by silica gel flash column chromatography (n-hexane: AcOEt=20:1) to obtain ethyl 2-[N-n-propyl-N-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-yl)amino]pyrimidine-5-carboxylate (116.5 mg, 63%).

reactant | Ethyl 2-[N-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-yl)amino]-pyrimidine-5-carboxylate | 165 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)NC1=NC=C(C=N1)C(=O)OCC)C | C21H27N3O2
reactant | NaH | 130 mg | [H-].[Na+]
reactant | n-propyl iodide | 0.5 ml | C(CC)I | C3H7I
reactant | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | ethyl 2-[N-n-propyl-N-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-yl)amino]pyrimidine-5-carboxylate | 116.5 mg, 63% | C(CC)N(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C1=NC=C(C=N1)C(=O)OCC | C24H33N3O2
